US07169928B2
4-(6-Piperidinohexanoyl)phenyl 3-piperidinopropyl ether
3-Phenoxypropylbromide (10 mmol), piperidine (20 mmol), and catalytic amounts of potassium iodide were refluxed in acetone for 12 hours. The solvent was evaporated. The residue was treated with ethyl acetate. The solvent was removed under reduced pressure, and the product was crystallized with hydrochloric acid from isopropanol/diethyl ether. The product (5 mmol) was added to a solution of 6-bromohexanoylchloride (7.5 mmol) and aluminiumtrichloride (22.5 mmol) in 10 ml of nitrobenzol. The mixture was stirred at room temperature for 3 days. Ethyl acetate was added, and the mixture was extracted with hydrochloric acid (6N). The solution was neutralized with potassium carbonate solution and extracted with methylene chloride. The solvent was removed under reduced pressure. The product (2.5 mmol), piperidine (5 mmol), potassium carbonate (7.5 mmol), and catalytic amounts of potassium iodide were refluxed in acetone for 12 hours. The solvent was evaporated, and the residue was purified by flash chromatography (eluent: methylene chloride/petroleum ether/methanol (96/3/3)). The solvent was removed under reduced pressure. The residue was crystallized with oxalic acid from diethyl ether/ethanol.

reactant | 3-Phenoxypropylbromide | 10 mmol | O(C1=CC=CC=C1)CCCBr | C9H11BrO
reactant | piperidine | 20 mmol | N1CCCCC1 | C5H11N
reactant | potassium iodide | [I-].[K+]
reactant | 6-bromohexanoylchloride | 7.5 mmol | BrCCCCCC(=O)Cl | C6H10BrClO
reactant | aluminiumtrichloride | 22.5 mmol | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | piperidine | 5 mmol | N1CCCCC1 | C5H11N
reactant | potassium carbonate | 7.5 mmol | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
solvent | nitrobenzol | 10 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(6-Piperidinohexanoyl)phenyl 3-piperidinopropyl ether | N1(CCCCC1)CCCOC1=CC=C(C=C1)C(CCCCCN1CCCCC1)=O | C25H40N2O2
